US06492385B2
Step 41a: 5-(2-hydroxyphenyl)-thiophene-2-carboxylic Acid.
Tetrakis(triphenylphosphine)palladium(0) (133 mg, 0.12 mmol) is added to a solution of 5-bromothiophene-2-carboxylic acid (850 mg, 4.1 mmol) in degassed THF (10 mL). The resulting solution is stirred for 5 minutes and then 2-(4,4,5,5-tetramethyl)-1,3,2-dioxaborolan-2-yl) phenol (1 g, 4.6 mmol) is added followed by aqueous Na2CO3 (2M, 6.9 mL). The mixture is heated at reflux overnight. The reaction mixture is allowed to cool, poured into water (50 mL), and washed with ether (3×50 mL). The aqueous layer is acidified with concentrated HCl to pH<2. The resulting precipitate is collected by filtration, washed with water and dried in vacuo to yield the desired product (761 mg, 83%). MS for C11H7O3S (ESI) (M−H)+ m/z 219.

reactant | 5-bromothiophene-2-carboxylic acid | 4.1 mmol, 850 mg | BrC1=CC=C(S1)C(=O)O | C5H3BrO2S
reactant | phenol | 4.6 mmol, 1 g | C1(=CC=CC=C1)O | C6H6O
reactant | Na2CO3 | 2M, 6.9 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 50 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.12 mmol, 133 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-hydroxyphenyl)-thiophene-2-carboxylic Acid | 761 mg, 83% | OC1=C(C=CC=C1)C1=CC=C(S1)C(=O)O | C11H8O3S
